US09278915B2
Intermediate 15: 2-Cyano-3-(4-hydroxyphenyl)propanoic acid
To a 250 mL par shaker flask was charged 2-cyano-3-(4-hydroxy-phenyl)-acrylic acid (0.5 g, 2.6 mmol) in ethyl acetate (10 mL) and the solution was purged with nitrogen for 10 minutes. Then 10% palladium on carbon (0.07 g) was added under nitrogen atmosphere. After addition, the mixture was hydrogenated at 30 psi for 3 days. After completion of the reaction (monitored by TLC), the RM was filtered through celite bed and the residue was washed thoroughly with methanol (15 mL). After filtration, the filtrate was concentrated to distill off the solvent and dried under vacuum. The product was obtained as yellow liquid 0.5 g, yield: 98.9%): MS (ESI, 120 eV): m/z=192.1 (M+H)+; 1H NMR (300 MHz, DMSO-d6): δ 7.07-7.10 (d, 2H), 6.70-6.72 (d, 2H), 4.17-4.21 (t, 1H), 2.92-3.09 (m, 2H).

reactant | 2-cyano-3-(4-hydroxy-phenyl)-acrylic acid | 2.6 mmol, 0.5 g | C(#N)C(C(=O)O)=CC1=CC=C(C=C1)O | C10H7NO3
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 2-Cyano-3-(4-hydroxyphenyl)propanoic acid | 0.5 g, yield: 98.9% | C(#N)C(C(=O)O)CC1=CC=C(C=C1)O | C10H9NO3
